US07405232B2
a) 4-fluoro-benzoic acid-(1-imino-ethyl)-hydrazide
Prepared from 7.2 g (58 mmol) ethylacetimidate hydrochloride and 5.00 g (32 mmol) 4-fluoro-benzoic acid hydrazide analogously to the method described for intermediate product 1, Step a).

reactant | ethylacetimidate hydrochloride | 58 mmol, 7.2 g | Cl.C(C)OC(C)=N
reactant | 4-fluoro-benzoic acid hydrazide | 32 mmol, 5.00 g | FC1=CC=C(C(=O)NN)C=C1 | C7H7FN2O
product | 4-fluoro-benzoic acid-(1-imino-ethyl)-hydrazide | N=C(C)N(N)C(C1=CC=C(C=C1)F)=O | C9H10FN3O
